US06608052B2
To a tube containing a solution of 2.0 g of 1-amino-4-bromonaphthalene (9.0 mmol, 1 equiv.) in 70 mL DMF were added 1.75 mL of 2-cyclohexen-1-one (18.0 mmol, 2.0 equiv.), 2.3 g of sodium bicarbonate (27.0 mmol, 3.0 equiv.) and 186 mg of 1,3-bis-(diphenylphosphino)propane (dppp, 0.45 mmol, 0.05 equiv.). A stream of dry nitrogen gas was bubbled through the mixture for 15 min, then 316 mg of bis-(triphenylphosphino)palladium(II) chloride (0.45 mmol, 0.05 equiv.) was added and the tube was sealed. The mixture was heated at 150° C. for 8 h, then cooled to ambient temperature, diluted with EtOAc (150 mL) and filtered through diatomaceous earth. The mixture was washed with water, then brine. The organic layer was dried (MgSO4), filtered and concentrated. The crude oil was purified by column chromatography on SiO2 using 10 to 50% EtOAc in hexane mixtures as eluents to give 2.0 g of a thick liquid consisting of 3-(4-aminonaphthalen-1-yl)cyclohex-2-enone and DMF (molar ratio 1:2 respectively, 5.22 mmol of naphthylamine, 58% of theoretical yield).

reactant | 3-(4-aminonaphthalen-1-yl)cyclohex-2-enone | NC1=CC=C(C2=CC=CC=C12)C1=CC(CCC1)=O | C16H15NO
reactant | DMF | CN(C)C=O | C3H7NO
product | naphthylamine | 5.22 mmol | C=1C=CC=2C=C(C=CC2C1)N | C10H9N
